### PR TITLE
feat: `min(?)`/`max(?)` for `Array`

### PR DESCRIPTION
**Pull request by datokrat**
This PR provides `Array` operations analogous to `List.min(?)` and `List.max(?)`.

I had to prove a few auxiliary lemmas. Downstream in Batteries, which already had `List.min` and `List.max`, I renamed their variants to `List.rangeMin` and `List.rangeMax` in the PR testing branch. Their version is more general in the sense that it has `start` and `stop` autoParams, like `Array.foldl` has, but I think the futore belongs to `Subarray.min` instead (which I haven't implemented yet).

### CODE REVIEW

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- 💥 Mathlib branch [lean-pr-testing-11936](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-11936) build failed against this PR. (2026-01-08 12:06:22) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/20816031241)
- 💥 Mathlib branch [lean-pr-testing-11936](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-11936) build failed against this PR. (2026-01-08 15:38:19) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/20822263096)
- ✅ Mathlib branch [lean-pr-testing-11936](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-11936) has successfully built against this PR. (2026-01-12 12:21:24) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/20917093905)
- ✅ Mathlib branch [lean-pr-testing-11936](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-11936) has successfully built against this PR. (2026-01-12 13:54:19) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/20919226690)
- ✅ Mathlib branch [lean-pr-testing-11936](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-11936) has successfully built against this PR. (2026-01-28 11:44:31) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/21435111977)

File: src/Init/Data/Array/MinMax.lean [hunk 1]
```diff
@@ -0,0 +1,470 @@
+/-
+Copyright (c) 2026 Lean FRO, LLC. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Parikshit Khanna, Jeremy Avigad, Leonardo de Moura, Floris van Doorn, Mario Carneiro,
+  Paul Reichert
```
Comment (kim-em) [inline src/Init/Data/Array/MinMax.lean]: It's a new file, just cut down to yourself!

File: src/Init/Data/Array/MinMax.lean [hunk 2]
```diff
@@ -0,0 +1,470 @@
...
+    foldlM.loop f xs xs.size (Nat.le_refl _) i j b = (xs.extract j (i + j)).foldlM (init := b) f := by
+  rw [loop.shift]
+  have := loop_eq_foldlM_take (xs := (xs.toList.drop j).toArray) (f := f) (b := b) (i := i)
+  simp only [List.size_toArray, List.length_drop, length_toList] at this
+  simp only [this, List.take_drop, Nat.add_comm j, ← Array.foldlM_toList, Array.toList_extract]
+  simp
+
+public theorem foldlM_eq_foldlM_extract [Monad m] {f : β → α → m β} {xs : Array α} {b} :
+    xs.foldlM (init := b) f (start := start) (stop := stop) =
+      (xs.extract start stop).foldlM (init := b) f := by
```
Comment (kim-em) [inline src/Init/Data/Array/MinMax.lean]: Can you move this up to a higher file? (And my apologies for not having already proved this!)

File: src/Init/Data/Array/MinMax.lean [hunk 3]
```diff
@@ -0,0 +1,470 @@
...
+
+theorem foldlM.loop_eq_foldlM_extract [Monad m] {f : β → α → m β} {xs : Array α} {i b} :
+    foldlM.loop f xs xs.size (Nat.le_refl _) i j b = (xs.extract j (i + j)).foldlM (init := b) f := by
+  rw [loop.shift]
+  have := loop_eq_foldlM_take (xs := (xs.toList.drop j).toArray) (f := f) (b := b) (i := i)
+  simp only [List.size_toArray, List.length_drop, length_toList] at this
+  simp only [this, List.take_drop, Nat.add_comm j, ← Array.foldlM_toList, Array.toList_extract]
+  simp
+
+public theorem foldlM_eq_foldlM_extract [Monad m] {f : β → α → m β} {xs : Array α} {b} :
```
Comment (kim-em) [inline src/Init/Data/Array/MinMax.lean]: Can you prove the foldrM version cheaply using `reverse` and this theorem?

File: src/Init/Data/Array/MinMax.lean [hunk 4]
```diff
@@ -0,0 +1,470 @@
...
+      simp only [toArray_toList, List.drop_zero, List.take_take, mk.injEq, List.take_eq_take_iff]
+      omega
+    · omega
+
+/-! ### Compatibility with `List` -/
+
+public theorem foldl_eq_foldl_extract {xs : Array α} {f : β → α → β} {init : β} :
+    xs.foldl (init := init) (start := start) (stop := stop) f = (xs.extract start stop).foldl (init := init) f := by
+  simp only [foldl_eq_foldlM]
+  rw [foldlM_eq_foldlM_extract]
```
Comment (kim-em) [inline src/Init/Data/Array/MinMax.lean]: Move this too, and similarly the question aboud foldr.

File: src/Init/Data/Array/MinMax.lean [hunk 5]
```diff
@@ -0,0 +1,470 @@
...
+  split
+  · simp [List.max_toArray, List.max_eq_get_max?]
+  · simp_all
+
+@[simp, grind =]
+public theorem max?_toList [Max α] {xs : Array α} :
+    xs.toList.max? = xs.max? := by
+  cases xs; simp
+
+/-! ### Lemmas about `min?` -/
```
Comment (kim-em) [inline src/Init/Data/Array/MinMax.lean:159]: I think from this point on we need some more grind annotations? If you're happy to think about those, great. But you can also ping me again and ask me to do it!

File: src/Init/Data/Array/MinMax.lean [hunk 6]
```diff
@@ -0,0 +1,470 @@
...
+  rw [← min?_toList]
+  apply List.isSome_min?_of_mem (a := a)
+  simpa
+
+public theorem isSome_min?_of_ne_empty [Min α] (xs : Array α) (h : xs ≠ #[]) : xs.min?.isSome := by
+  rw [← min?_toList]
+  apply List.isSome_min?_of_ne_nil
+  simpa
+
+public theorem min?_mem [Min α] [Std.MinEqOr α] (xs : Array α) (h : xs.min? = some a) : a ∈ xs := by
```
Comment (kim-em) [inline src/Init/Data/Array/MinMax.lean:202]: Is there precedent for this name? Perhaps just `mem_of_min?_eq_some`?

Comment (kim-em) [reply src/Init/Data/Array/MinMax.lean:202]: Oh, I see, it's right there for `List`. Feel free to rename both if you also think it's bad. :-) But leaving as is is okay too.

File: src/Init/Data/Array/MinMax.lean (hunk 1 above)
Comment (datokrat) [reply src/Init/Data/Array/MinMax.lean]: (I thought it might be sensible to keep the other authors because significant copy-pasting was involved, but I understand.)

File: src/Init/Data/Array/MinMax.lean (hunk 2 above)
Comment (datokrat) [reply src/Init/Data/Array/MinMax.lean]: Turns out you did! It's called `foldlM_start_stop`, though, and I overlooked it :-)
In my opinion, `foldlM_eq_foldlM_extract` is a slightly better name because it doesn't rely on argument names -- if you agree, I'm happy to deprecate and rename. For now, I'll just remove my lemma and rely on `foldlM_start_stop`.

File: src/Init/Data/Array/MinMax.lean (hunk 3 above)
Comment (datokrat) [reply src/Init/Data/Array/MinMax.lean]: Also already exists under the name `foldrM_start_stop` 👍

File: src/Init/Data/Array/MinMax.lean (hunk 4 above)
Comment (datokrat) [reply src/Init/Data/Array/MinMax.lean]: These are actually missing, I'm adding them to Init.Data.Array.Lemmas.

File: src/Init/Data/Array/MinMax.lean (hunk 5 above)
Comment (datokrat) [reply src/Init/Data/Array/MinMax.lean:159]: Good point, I'm happy to do this. (Got much more familiar with `grind` in the last weeks!)

File: src/Init/Data/Array/MinMax.lean (hunk 6 above)
Comment (datokrat) [reply src/Init/Data/Array/MinMax.lean:202]: Personally, I like the naming scheme we're having here: While `mem_of_min?_eq_some` might still be understandable, lemmas such as `TreeMap.minKey?_le_minKey?_erase` would be incomprehensible if named `TreeMap.le_of_minKey?_eq_some_of_minKey?_erase_eq_some`...

File: src/Init/Data/Array/MinMax.lean (hunk 5 above)
Comment (datokrat) [reply src/Init/Data/Array/MinMax.lean:159]: I added some `grind` annotations in the latest commit.

**Comment by datokrat** [comment]
!radar

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/lean4/commits/42f7959726049eee7855493b39fc01b61ef34f53?reference=42a0e9245300da6b3d971fa0033d726bb8e11cc3) for 42f7959726049eee7855493b39fc01b61ef34f53 against 42a0e9245300da6b3d971fa0033d726bb8e11cc3 are in! @datokrat

- 🟥 `build//instructions`: **+4.3G** (**+0.0%**)

**Medium changes (1✅)**

- ✅ `bv_decide_rewriter.lean//instructions`: **-79.7M** (**-0.7%**)

**Small changes (1✅, 4🟥)**

- 🟥 `build/module/Init.Data.List.MinMax//bytes .olean`: **+15kiB** (**+12.2%**)
- 🟥 `build/module/Init.Data.List.MinMax//bytes .olean.server`: **+2kiB** (**+12.4%**)
- 🟥 `build/module/Init.Data.List.MinMax//instructions`: **+238.8M** (**+6.5%**) (reduced significance based on *//lines)
- ✅ `bv_decide_large_aig.lean//instructions`: **-106.2M** (**-0.2%**)
- 🟥 `size/init/.olean.server//bytes`: **+21kiB** (**+0.2%**)
